US08304419B2
Step F: bis(1,1-dimethylethyl)(4-chloro-5-formyl-1H-imidazol-2-yl)imidodicarbonate
N-Chlorosuccinimide (0.346 g, 2.59 mmol) was added to a suspension of bis(1,1-dimethylethyl)(4-formyl-1H-imidazol-2-yl)imidodicarbonate (0.672 g, 2.158 mmol) in acetonitrile (10 mL). The mixture was heated at 60° C. for 2 hrs. The solvent was evaporated. Chromatography of the residue with ethyl acetate:hexane gave the title compound (0.086 g, 11%) as a white solid. 1H NMR (400 MHz, chloroform-d) δ ppm 10.38-10.79 (m, 1H), 9.6 (s, 1H), 1.52 (s, 18H). ES MS: m/z 345

reactant | N-Chlorosuccinimide | 2.59 mmol, 0.346 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | bis(1,1-dimethylethyl)(4-formyl-1H-imidazol-2-yl)imidodicarbonate | 2.158 mmol, 0.672 g | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1NC=C(N1)C=O | C14H21N3O5
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | bis(1,1-dimethylethyl)(4-chloro-5-formyl-1H-imidazol-2-yl)imidodicarbonate | 0.086 g, 11% | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1NC(=C(N1)Cl)C=O | C14H20ClN3O5
